US06133303
5-{6-[2-(1H-Imidazol-4-yl)-ethoxy]-1-oxo-3,4-dihydro-1H-naphthalen-2-ylidenemethyl}-thiophene-2-carboxylic acid
According to the method of Example 34, 6-[2-(1H-imidazole-4-yl)-ethoxy]-3,4-dihydro-2H-naphthalen-1-one, monohydrochloride (0.220 g, 0.75 mmol) was reacted with 5-carboxymethyl-2-thiophene carboxaldehyde (0.191 g, 1.12 mmol) in 5 mL of 4% KOH in EtOH overnight, and the resulting solid was purified by preparative HPLC (C18, 0.1% TFA in H2O:0.1% TFA in AcCN; gradient 80:20 to 20:80) to afford 0.302 g (75%) of the title compound as a light tan powder, mp dec. >200° C.: APCI-MS m/e 395 (M+ +1).

reactant | 6-[2-(1H-imidazole-4-yl)-ethoxy]-3,4-dihydro-2H-naphthalen-1-one, monohydrochloride | 0.75 mmol, 0.220 g | Cl.N1C=NC(=C1)CCOC=1C=C2CCCC(C2=CC1)=O
reactant | 5-carboxymethyl-2-thiophene carboxaldehyde | 1.12 mmol, 0.191 g | C(=O)(O)CC1=CC=C(S1)C=O | C7H6O3S
reactant | KOH | 5 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 5-{6-[2-(1H-Imidazol-4-yl)-ethoxy]-1-oxo-3,4-dihydro-1H-naphthalen-2-ylidenemethyl}-thiophene-2-carboxylic acid | 0.302 g, 75% | N1C=NC(=C1)CCOC=1C=C2CCC(C(C2=CC1)=O)=CC1=CC=C(S1)C(=O)O | C21H18N2O4S
